US04612309
Step 1. 6-Methoxy-4-hydroxy-2,3-dihydrobenzopyran
A solution of 6-methoxy-4-benzopyranone (31.6 g), triethylamine (4.9 ml) and 10% palladium on carbon (3.16 g) in absolute ethanol (1.7 l) is stirred under an atmosphere of hydrogen for 19 hours. The reaction mixture is filtered and evaporated in vacuo yielding the desired hydrogenated product as a pale yellow liquid.

reactant | 6-methoxy-4-benzopyranone | 31.6 g | COC=1C=CC2=C(C(C=CO2)=O)C1 | C10H8O3
reactant | triethylamine | 4.9 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 3.16 g | [Pd] | Pd
solvent | ethanol | 1.7 l | C(C)O | C2H6O
product | 6-Methoxy-4-hydroxy-2,3-dihydrobenzopyran | COC=1C=CC2=C(C(CCO2)O)C1 | C10H12O3
